US09359371B2
In DCM (50 mL) was dissolved the above product ethyl 4-((3-fluoro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-carboxylate. To the solution were added 3-azabicyclo[3.1.0]hexan hydrochloride salt (0.8 g, 6.67 mmol) and triethylamine (4 mL, 28.8 mmol). The reaction was conducted at ambient temperature for 18 h, followed by addition of water and extraction with DCM. The organic phase was dried over sodium sulfate, and the solvent was removed by rotary evaporation to give ethyl 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-fluoro-4-methoxybenzyl)amino)pyrimidine-5-carboxylate as a faint yellow oil (3.1 g). The product was used in the subsequent procedure without further purification.

reactant | 3-azabicyclo[3.1.0]hexan hydrochloride salt | 6.67 mmol, 0.8 g | Cl.C12CNCC2C1
reactant | triethylamine | 28.8 mmol, 4 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | ethyl 4-((3-fluoro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-carboxylate | FC=1C=C(CNC2=NC(=NC=C2C(=O)OCC)S(=O)C)C=CC1OC | C16H18FN3O4S
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-fluoro-4-methoxybenzyl)amino)pyrimidine-5-carboxylate | 3.1 g | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)F)C(=O)OCC | C20H23FN4O3
